US07323464B2
2-Chloro-4-(2-phenyl-piperidin-1-yl)-pyrimidine
2-Phenylpiperidine, Intermediate 15, (0.5 g, 2.52 mmol), 2,4-dichloropyrimidine (0.41 g, 2.77 mmol) and sodium bicarbonate (0.59 g, 5.55 mmol) in dry EtOH (10 mL) were refluxed for 2 hours, under an atmosphere of nitrogen. The mixture was filtered and the filtrate evaporated in vacuo to give a yellow oil. The oil was purified by flash chromatography (EtOAc and isohexane (1:3)/silica) to give the title compound as a colourless oil (46 g, 66%).

reactant | 2-Phenylpiperidine | C1(=CC=CC=C1)C1NCCCC1 | C11H15N
reactant | 2,4-dichloropyrimidine | 2.77 mmol, 0.41 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium bicarbonate | 5.55 mmol, 0.59 g | C([O-])(O)=O.[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-Chloro-4-(2-phenyl-piperidin-1-yl)-pyrimidine | 46 g, 66% | ClC1=NC=CC(=N1)N1C(CCCC1)C1=CC=CC=C1 | C15H16ClN3
